US06028223
A solution of m-guanidinohippuric acid HCl (1.5 g) in DMF (4.5 ml) and pyridine (4.5 ml) was treated with DSC (1.8 g) and a catalytic amount of DMAP. After 2 hours, a solution of dimethyl 3-aminoglutarate HCl (1.1 g) and NMM (350 μl) in H2O (3 ml) was added to the reaction. The reaction was stirred overnight at room temperature and the product was isolated by HPLC. 1.5 g of 3-[[2-[[[3-[(aminoiminomethyl)amino]phenyl]-carbonyl]amino]acetyl]amino]pentanedioic acid, bismethyl ester was obtained as a white solid. MS and 1H-NMR were consistent with the desired product.

reactant | m-guanidinohippuric acid HCl | 1.5 g | Cl.N(C(=N)N)C=1C=C(C(NCC(=O)O)=O)C=CC1
reactant | dimethyl 3-aminoglutarate HCl | 1.1 g | Cl.NC(CC(=O)OC)CC(=O)OC
reactant | NMM | 350 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
solvent | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | 3 ml | O | H2O
product | 3-[[2-[[[3-[(aminoiminomethyl)amino]phenyl]-carbonyl]amino]acetyl]amino]pentanedioic acid, bismethyl ester | 1.5 g | NN=CNC=1C=C(C=CC1)C(=O)NCC(=O)NC(CC(=O)OC)CC(=O)OC | C17H23N5O6
